US09403773B2
6.5 g of 2-[3-(4-fluoro-2-nitrophenoxy)propyl]isoindole-1,3-dione was suspended in ethanol (140 ml), and hydrazine hydrate (3.0 ml) was added to the resulting suspension. The mixture was stirred for 3.5 hours while heating under reflux. The reaction mixture was cooled to room temperature, and concentrated under reduced pressure. 13 ml of 5N sodium hydroxide aqueous solution was added to the residue, and the resulting mixture was extracted with dichloromethane. The organic layer was washed with a saturated sodium chloride solution, and then dried over anhydrous magnesium sulfate. The resulting dry product was concentrated under reduced pressure to thereby obtain 4.03 g of oily red orange 3-(4-fluoro-2-nitrophenoxy)propylamine (yield: 100%).

reactant | 2-[3-(4-fluoro-2-nitrophenoxy)propyl]isoindole-1,3-dione | 6.5 g | FC1=CC(=C(OCCCN2C(C3=CC=CC=C3C2=O)=O)C=C1)[N+](=O)[O-] | C17H13FN2O5
reactant | hydrazine hydrate | 3.0 ml | O.NN
solvent | ethanol | 140 ml | C(C)O | C2H6O
product | 3-(4-fluoro-2-nitrophenoxy)propylamine | 4.03 g, yield: 100% | FC1=CC(=C(OCCCN)C=C1)[N+](=O)[O-] | C9H11FN2O3
